US04316906
A solution of 5.3 g. (0.035 mole) of 1-adamantanol in 40 ml. of dimethylformamide and 80 ml. of benzene is treated with 1.6 g. of sodium hydride (50% dispersion in mineral oil). The mixture is refluxed for 15 minutes, cooled, and treated with 7.5 g. (0.017 mole) of N-carbobenzyloxy-trans-4-tosyloxy-L-proline, methyl ester. The resulting reaction mixture is stirred and refluxed for four hours, cooled, and the solvent removed under reduced pressure. The residue is dissolved in 100 ml. of chloroform and then washed with 25 ml. of water (3 times). The organic phase is dried (MgSO4), filtered, and the solvent evaporated to give N-carbobenzyloxy-cis-4-(1-adamantyl)-L-proline, methyl ester.

reactant | 1-adamantanol | 0.035 mole | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | N-carbobenzyloxy-trans-4-tosyloxy-L-proline, methyl ester | 0.017 mole | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)OC)C[C@H](C1)OS(=O)(=O)C1=CC=C(C)C=C1 | C21H23NO7S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-carbobenzyloxy-cis-4-(1-adamantyl)-L-proline, methyl ester | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)OC)C[C@@H](C1)C12CC3CC(CC(C1)C3)C2 | C24H31NO4
